US05238962
The N-(2-methylsulfonyloxyethyl)-4-chlorobenzamide obtained is dissolved in 5 ml of dimethylformamide and added dropwise at room temperature to a solution of ammonia in dimethylformamide. After stirring for 2 hours, the mixture is worked-up and there is obtained N-(2-aminoethyl)-4-chlorobenzamide which is identical with the product obtained in Example 1.

reactant | N-(2-methylsulfonyloxyethyl)-4-chlorobenzamide | CS(=O)(=O)OCCNC(C1=CC=C(C=C1)Cl)=O | C10H12ClNO4S
reactant | ammonia | N | H3N
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | N-(2-aminoethyl)-4-chlorobenzamide | NCCNC(C1=CC=C(C=C1)Cl)=O | C9H11ClN2O
